US07468365B2
To a slurry of sodium hydride (1.1 eq) in 15 mL of dry DMF was added 2,3,4,5-tetrahydro-1H-3-benzazepin-2-one (0.0042 moles) as a solution in 10 mL of DMF. Methyl iodide (about 2 eq.) was then added. When complete by TLC, the reaction mixture was poured over ice and extracted into ethyl acetate. The organic layer was washed with water, followed by brine. The organic layer was then dried over Na2SO4, filtered, and concentrated under reduced pressure. The residue was purified by HPLC (LC 2000), eluting with an ethyl acetate/hexane system to give 3-methyl-2,3,4,5-tetrahydro-1H-3-benzazepin-2-one.

reactant | sodium hydride | 1.1 eq | [H-].[Na+]
reactant | 2,3,4,5-tetrahydro-1H-3-benzazepin-2-one | 0.0042 moles | C1C(NCCC2=C1C=CC=C2)=O | C10H11NO
reactant | Methyl iodide | about 2 eq. | CI | CH3I
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 3-methyl-2,3,4,5-tetrahydro-1H-3-benzazepin-2-one | CN1CCC2=C(CC1=O)C=CC=C2 | C11H13NO
